US05972972
Preparation of 3-(2,6-dichlorophenylsulfonylamino)-4-(2-pyridyl)-5-(4-(3-carboxypropoxy)benzylthio)-(1H)-pyrazole
The 3-(2,6-dichlorophenyl)sulfonylamino-4-(2-pyridyl)-5-(4-(3-cyanopropoxy)benzylthio)-(1H)-pyrazole (0.19 g), prepared as described in Example 7, above, in 2 ml of diethylene glycol and 0.2 ml of water with 0.1 g of potassium hydroxide was heated at 100° C. overnight. After cooling, the reaction was poured into a saturated solution of ammonium chloride, extracted in tetrahydrofuran/ethyl acetate 1:1, and washed with water and then brine. The organic phase was dried over MgSO4, filtered and concentrated to dryness. The residue was treated with ethanol/ether 2:1 to precipitate a yellow solid (0.130 g, 66% yield) isolated by filtration.

reactant | 3-(2,6-dichlorophenyl)sulfonylamino-4-(2-pyridyl)-5-(4-(3-cyanopropoxy)benzylthio)-(1H)-pyrazole | 0.19 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC=C(C=C1)OCCCC#N | C25H21Cl2N5O3S2
reactant | water | 0.2 ml | O | H2O
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylene glycol | 2 ml | C(COCCO)O | C4H10O3
product | 3-(2,6-dichlorophenylsulfonylamino)-4-(2-pyridyl)-5-(4-(3-carboxypropoxy)benzylthio)-(1H)-pyrazole | 0.130 g, 66% yield | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC=C(C=C1)OCCCC(=O)O | C25H22Cl2N4O5S2
